US05506351
2,6-Diamino-9-(2-O-nonyl-β-D-ribofuranosyl)purine
2,6-Diamino-9-(β-D-ribofuranosyl)purine (50 g, 180 mmol) was treated with sodium hydride (8.8 g, 220 mmol) and bromononane (59 g, 54.4 ml, 285 mmol) in DMF (700 ml) as per the procedure of Example 2 (the diamino compound in DMF was cooled in an ice bath during the addition of NaH) to yield 83 g of crude product. 50 g of crude product was purified by silica gel chromatography. Fraction containing 2'-O-nonyl and 3'-O-nonyl product were combined to give a 77:23 mixture (29 g) of the 2' and 3' product. Pure 2'-O-nonyl product is obtained by chromatography. 1H NMR (DMSO-d6) δ 0.95 (t, 3, CH3); 1.17 [m, 12, O--CH2 --CH2 --(CH2)6 ]; 1.42 [m, 2, O--CH2CH2 (CH2)6 ]; 3.27-3.70 (m, 2, H-5'); 3.50-3.70 [m, 2, O--CH2 (CH2)7 ]; 3.95 (m, 1, H-4'), 4.24 (m, 1, H-3'); 4.40 (m, 1, H-2'); 5.10 (d, 1, 3'-OH, J=5 Hz); 5.50 (t, 1, 5'-OH, J=6 Hz); 5.76 (s, 2, 2-NH2); 5.83 (d, 1, H-1', J=6.0 Hz); 6.81 (s, 2, 6-NH2); and 7.96 (s, 1, 8-H).

reactant | 2,6-Diamino-9-(β-D-ribofuranosyl)purine | 180 mmol, 50 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)N | C10H14N6O4
reactant | sodium hydride | 220 mmol, 8.8 g | [H-].[Na+]
reactant | bromononane | 285 mmol, 54.4 ml, 59 g | BrCCCCCCCCC | C9H19Br
solvent | DMF | 700 ml | CN(C)C=O | C3H7NO
product | 2,6-Diamino-9-(2-O-nonyl-β-D-ribofuranosyl)purine | 29 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](OCCCCCCCCC)[C@H](O)[C@H](O1)CO)N | C19H32N6O4
